US05104888
Ethyl 3-[3-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)-4-methylphenyl]-2-chloropropionate (Step D3)
Following the same procedure as described in Preparation 25, 5.53 g of 6-acetoxy-2-(5-amino-2-methylphenoxymethyl)-7-t-butyl-2-methylchroman-4-one (prepared as described in Preparation 41), 1.2 g of sodium nitrite, 2.4 ml of concentrated hydrochloric acid, 14 ml of ethyl acrylate, 190 ml of cuprous oxide and 50 ml of acetone were reacted, to give the title compound as a pale yellow oil.

reactant | 6-acetoxy-2-(5-amino-2-methylphenoxymethyl)-7-t-butyl-2-methylchroman-4-one | 5.53 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC1=C(C=CC(=C1)N)C)=O | C24H29NO5
reactant | sodium nitrite | 1.2 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2.4 ml | Cl | ClH
reactant | ethyl acrylate | 14 ml | C(C=C)(=O)OCC | C5H8O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Ethyl 3-[3-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy)-4-methylphenyl]-2-chloropropionate | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC=1C=C(C=CC1C)CC(C(=O)OCC)Cl)=O | C29H35ClO7
